US06797718B2
The general method described in Part A of Example 81 was followed, using 2-(8-ethoxymethyl-5,6-dimethyl-7H-imidazo [4,5-c]tetrazolo [1,5-a]pyridin-7-yl)ethanol (4.51 g, 15.5 mmol) in lieu of tert-butyl 2-hydroxyethylcarbamate and 3-bromo-1-phenylpropyne, prepared as described in Part A of Example 7, in lieu of propargyl bromide. The crude product was triturated with diethyl ether, isolated by filtration, and dried under reduced pressure to provide 5.93 g of 8-ethoxymethyl-5,6-dimethyl-7-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine as a yellow solid.

reactant | 2-(8-ethoxymethyl-5,6-dimethyl-7H-imidazo [4,5-c]tetrazolo [1,5-a]pyridin-7-yl)ethanol | 15.5 mmol, 4.51 g | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCO | C13H18N6O2
reactant | tert-butyl 2-hydroxyethylcarbamate | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | 3-bromo-1-phenylpropyne | BrCC#CC1=CC=CC=C1 | C9H7Br
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 8-ethoxymethyl-5,6-dimethyl-7-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-7H-imidazo[4,5-c]tetrazolo[1,5-a]pyridine | 5.93 g | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCOCC#CC1=CC=CC=C1 | C22H24N6O2
